US07902218B2
Step F (13): (4S,5S)-4-(3,5-difluorobenzyl)-5-((R)-2-benzhydryl-8-(triisopropylsilyloxy)-1,2,3,4-tetrahydroisoquinolin-3-yl)oxazolidin-2-one
To a solution of (4S,5R)-4-(3,5-difluorobenzyl)-5-((R)-8-(triisopropylsilyloxy)-1,2,3,4-tetrahydroisoquinolin-3-yl)oxazolidin-2-one Step F (12), 120 mg, 0.23 mmol) in acetonitrile (2 mL) were added potassium carbonate (64 mg, 0.46 mmol) and bromodiphenylmethane (91 mg, 0.37 mmol). This mixture was put on microwave at 75° C. for 2 h and 15 min. Solvent was removed and the crude mixture was purified by silica gel Flash Chromatography to give 120 mg of the title compound (75% yield): 1H NMR (CDCl3, 500 MHz) δ 0.90 (18H, m), 1.06 (3H, m), 2.47 (1H, m), 2.76 (1H, d, J=20 Hz), 3.16-3.23 (2H, m), 3.69 (1H, d, J=20 Hz), 3.75 (1H, m), 4.02 (1H, m), 4.18 (1H, d, J=20 Hz), 4.72 (1H, m), 4.80 (1H, s), 4.92 (1H, s), 6.61 (1H, d, J=10 Hz), 6.76-6.80 (4H, m), 7.03-7.06 (1H, m), 7.17-7.30 (6H, m), 7.39 (4H, t, J=5 Hz). MS (ESI) (M+H)+ 683.31.

reactant | (4S,5R)-4-(3,5-difluorobenzyl)-5-((R)-8-(triisopropylsilyloxy)-1,2,3,4-tetrahydroisoquinolin-3-yl)oxazolidin-2-one | FC=1C=C(C[C@@H]2NC(O[C@@H]2[C@@H]2NCC3=C(C=CC=C3C2)O[Si](C(C)C)(C(C)C)C(C)C)=O)C=C(C1)F | C28H38F2N2O3Si
reactant | potassium carbonate | 0.46 mmol, 64 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromodiphenylmethane | 0.37 mmol, 91 mg | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (4S,5S)-4-(3,5-difluorobenzyl)-5-((R)-2-benzhydryl-8-(triisopropylsilyloxy)-1,2,3,4-tetrahydroisoquinolin-3-yl)oxazolidin-2-one | 120 mg, 75% yield | FC=1C=C(C[C@@H]2NC(O[C@@H]2[C@@H]2N(CC3=C(C=CC=C3C2)O[Si](C(C)C)(C(C)C)C(C)C)C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C(C1)F | C41H48F2N2O3Si
